US09079889B2
Following Method 9, tert-butyl 5-(3-aminopyridin-4-yl)-2-oxohexahydrobenzo[d]oxazole-3(2H)-carboxylate and 6-bromo-5-fluoropicolinic acid were coupled and following addition of EtOAc and washing with H2O, NaCl(sat.) and drying over MgSO4, tert-butyl 5-(3-(6-bromo-5-fluoropicolinamido)pyridin-4-yl)-2-oxohexahydrobenzo[d]oxazole-3(2H)-carboxylate was obtained. LCMS (m/z): 537.1 (MH+); LCMS Rt=0.71 min.

reactant | tert-butyl 5-(3-aminopyridin-4-yl)-2-oxohexahydrobenzo[d]oxazole-3(2H)-carboxylate | NC=1C=NC=CC1C1CCC2C(N(C(O2)=O)C(=O)OC(C)(C)C)C1 | C17H23N3O4
reactant | 6-bromo-5-fluoropicolinic acid | BrC1=C(C=CC(=N1)C(=O)O)F | C6H3BrFNO2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | tert-butyl 5-(3-(6-bromo-5-fluoropicolinamido)pyridin-4-yl)-2-oxohexahydrobenzo[d]oxazole-3(2H)-carboxylate | BrC1=C(C=CC(=N1)C(=O)NC=1C=NC=CC1C1CCC2C(N(C(O2)=O)C(=O)OC(C)(C)C)C1)F | C23H24BrFN4O5
